US05189211
To a mixture of ethyl 4-[2-(4-chlorophenylsulfonylamino)ethylthio]-2,6-difluorophenoxyacetate (0.46 g) and tetrahydrofuran (30 ml) was added under ice cooling lithium aluminum hydride (38 mg), and the mixture was stirred at room temperature for an hour. To the reaction mixture was added successively 10% aqueous sodium hydroxide solution (0.2 ml), ethyl acetate (30 ml) and anhydrous sodium sulfate (1 g), and the insolubles were removed by filtration. After evaporation of the filtrate under reduced pressure, the residue was chromatographed on silica gel column (ethyl acetate:hexane=1:1), and the desired fractions were collected and recrystallized from ethyl ether/isopropyl ether mixture to give 2-{4-[2-(4-chlorophenylsulfonylamino)ethylthio]-2,6-difluorophenoxy}ethanol (Compound No. 129).

reactant | ethyl 4-[2-(4-chlorophenylsulfonylamino)ethylthio]-2,6-difluorophenoxyacetate | 0.46 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCSC1=CC(=C(OCC(=O)OCC)C(=C1)F)F | C18H18ClF2NO5S2
reactant | lithium aluminum hydride | 38 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.2 ml | [OH-].[Na+]
reactant | sodium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-{4-[2-(4-chlorophenylsulfonylamino)ethylthio]-2,6-difluorophenoxy}ethanol | ClC1=CC=C(C=C1)S(=O)(=O)NCCSC1=CC(=C(OCCO)C(=C1)F)F | C16H16ClF2NO4S2
